US07960552B2
To a solution of 2,4,6-trifluorophenol (18 mg, 0.12 mmol), methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinoline carboxylate (52 mg, 0.12 mmol) and triphenylphosphine (35 mg, 0.13 mmol) in dichloromethane (2 mL) was added diisopropyl azodicarboxylate (0.024 mL, 0.13 mmol) slowly. The solution was heated in a microwave reactor at 100° C. for 10 minutes. The solution was adsorbed onto silica gel and purification was done by chromatography (0-70% ethyl acetate in hexanes) to afford a solid which was dissolved in 2:1 tetrahydrofuran:methanol (1.5 mL). Then 1 N sodium hydroxide (0.19 mmol, 0.19 mmol) was added. The solution was subjected to microwave radiation at 120° C. for 500 seconds. The solution was concentrated then diluted with water before the addition of 1 N hydrochloric acid (0.19 mmol, 0.19 mmol). The resulting solid was extracted with ethyl acetate twice and the combined organic layers were dried over magnesium sulfate and concentrated. The resulting solid was washed with methanol and dried to afford 6-(4-{[(5-(1-methylethyl)-3-{[(2,4,6-trifluorophenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-2-quinolinecarboxylic acid (24 mg, 35%). 1H-NMR (400 MHz, DMSO-d6) δ 8.44-8.06 (m, 5H), 7.69 (d, J=9 Hz, 2H), 7.11 (d, J=9 Hz, 2H), 6.65 (t, J=9 Hz, 2H), 5.23 (s, 2H), 5.12 (s, 2H), 3.29 (septet, J=7 Hz, 1H), 1.37 (d, J=7 Hz, 6H). HRMS (ESI) C30H23F3N2O5 calculated: 549.1632 (M+H)+, found: 549.1631 (M+H)+.

reactant | 2,4,6-trifluorophenol | 0.12 mmol, 18 mg | FC1=C(C(=CC(=C1)F)F)O | C6H3F3O
reactant | methyl 6-[4-({[3-(hydroxymethyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinoline carboxylate | 0.12 mmol, 52 mg | OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C25H24N2O5
reactant | triphenylphosphine | 0.13 mmol, 35 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.13 mmol, 0.024 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | sodium hydroxide | 0.19 mmol, 1 N | [OH-].[Na+]
reactant | hydrochloric acid | 0.19 mmol, 1 N | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 1.5 mL | CO | CH4O
product | 6-(4-{[(5-(1-methylethyl)-3-{[(2,4,6-trifluorophenyl)oxy]methyl}-4-isoxazolyl)methyl]oxy}phenyl)-2-quinolinecarboxylic acid | 24 mg, 35% | CC(C)C1=C(C(=NO1)COC1=C(C=C(C=C1F)F)F)COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O | C30H23F3N2O5
